* OVERALL BEST CANDIDATE: 00_Phase_1_28V_Avionics_to_12V_Buck_g1_cand2_b3
* FITNESS SCORE: 0.7278
*
* Generated: 2026-05-31T20:08:45
* Constraint: Phase 1: 28V Avionics to 12V (Buck)
*   vin_min = 24
*   vin_max = 32
*   vout_target = 12
*   efficiency_target = 0.81
*   power_in = 40
* Candidate: 2 of 8
* Grouped name: g1_cand2
*
* 24V to 12V Buck-Boost Converter
Vin in 0 24
L1 in sw 100u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 0.36
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
