* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_7
* Fitness: 0.9880
*
* --- Active Constraints ---
* _comment: Phase 1: 28V Avionics to 12V (Buck)
* vin_min: 24
* vin_max: 32
* vout_target: 12
* efficiency_target: 0.81
* power_in: 40
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 11.217100
* efficiency: 0.966654
* total_volume_cm3: 31.207308
* total_components: 4
* ============================

* 28V to 12V Buck Converter
Vin in 0 28
M1 in gate sw sw NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 470u
Rload out 0 0.36
Vgate gate sw PULSE(0 12 0 1n 1n 4.166666666666667e-06 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end